US07846960B2
4-Formyl-2-pentyl-benzoic Acid Methyl Ester
To a solution of 4-[1,3]Dioxin-2-yl-2-pentyl-benzoic acid methyl ester (360 mg, 1.3 mmol) in THF (5.0 mL) is added concentrated HCl (0.55 mL, 6.5 mmol). The reaction is stirred for 2.0 h. The reaction mixture is partitioned between EtOAc (20 mL) and water (20 mL). The organic phase is washed with brine (20 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure to a residue. The residue is purified by flash chromatography to afford the title compound as syrup (236 mg, 98%). LC-ES/MS m/e 235.3 (M+1).

reactant | 4-[1,3]Dioxin-2-yl-2-pentyl-benzoic acid methyl ester | 1.3 mmol, 360 mg | COC(C1=C(C=C(C=C1)C1OC=CCO1)CCCCC)=O | C17H22O4
reactant | HCl | 6.5 mmol, 0.55 mL | Cl | ClH
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 4-Formyl-2-pentyl-benzoic Acid Methyl Ester | 236 mg, 98% | COC(C1=C(C=C(C=C1)C=O)CCCCC)=O | C14H18O3
